US06388084B1
A solution of 4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (69 mg, 0. 145 mmol) in THF (3 mL) was treated with a solution of lithium hydroxide monohydrate (24.3 mg, 0.58 mmol) in water (1.0 mL). Sufficient THF was added to the mixture to effect solution. The mixture was stirred 1 hr and a few drops of acetic acid were added. The entire reaction mixture was applied to a 4×30 cm, C-18 reversed phase HPLC column and eluted with a linear gradient of acetonitrile in water of 5 to 95% over 35 min. The product containing fraction was lyophillyzed to give 4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl] -L-phenylalanine (48 mg, 72%) as a white solid. LR-Electrospray: m/z positive ion 943 (2M+Na), 483 (M+Na), 478, (M+NH4), 461 (M+H); negative ion 919 (2M−H), 521, 459 (M−H).

reactant | 4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 145 mmol, 69 mg | COC([C@@H](NC(=O)C1(CCCC1)CCOC)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Cl)C)=O)=O | C25H31ClN2O5
reactant | lithium hydroxide monohydrate | 0.58 mmol, 24.3 mg | O.[OH-].[Li+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl] -L-phenylalanine | 48 mg, 72% | ClC=1C=C(C(N(C1)C)=O)C1=CC=C(C[C@H](NC(=O)C2(CCCC2)CCOC)C(=O)O)C=C1 | C24H29ClN2O5
